US08497281B2
Step 4: cis-8-(4-methoxy-phenoxy)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline
1 M aqueous NaOH solution (10 mL) is added to a solution of cis-2,2,2-trifluoro-1-[8-(4-methoxy-phenoxy)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-ethanone (0.95 g) in tetrahydrofuran (10 mL) at room temperature. The resulting solution is stirred at 35° C. overnight and then cooled to room temperature. The solution is extracted with ethyl acetate, the combined extracts are washed with brine and dried (Na2SO4). The solvent is evaporated and the residue is chromatographed on silica gel (dichloromethane/methanol containing 1% NH3 95:5→70:30) to give the title compound as a colorless resin-like solid. Yield: 0.64 g (88% of theory); LC (method 1): tR=2.75 min; Mass spectrum (ESI+): m/z=310 [M+H]+.

reactant | NaOH | 1 M, 10 mL | [OH-].[Na+]
reactant | cis-2,2,2-trifluoro-1-[8-(4-methoxy-phenoxy)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-ethanone | 0.95 g | FC(C(=O)N1CCC[C@@H]2C3=C(CC[C@H]12)C=C(C=C3)OC3=CC=C(C=C3)OC)(F)F | C22H22F3NO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | cis-8-(4-methoxy-phenoxy)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | COC1=CC=C(OC2=CC3=C([C@H]4CCCN[C@H]4CC3)C=C2)C=C1 | C20H23NO2
